US08440666B2
2-{5-Bromo-6-oxo-4-[2-(tricyclo[3.3.1.13,7]dec-1-yl)ethoxy]pyridazin-1(6H)-yl}-N-(pyridin-4-ylmethyl)acetamide
2-{4,5-Dibromo-6-oxopyridazin-1(6H)-yl}-N-(pyridin-4-ylmethyl)acetamide (48 mg, 0.119 mmol) and 1-adamantanethanol (92 mg, 0.510 mmol) in 1,4-dioxane (2 mL) were stirred with 6 M aqueous sodium hydroxide (50 μL, 0.300 mmol) at 100° C. for 6 hours. After completion of the reaction, the reaction solution was mixed with saturated aqueous sodium chloride and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1 to 0/1) to give the desired product (9% yield).

reactant | 2-{4,5-Dibromo-6-oxopyridazin-1(6H)-yl}-N-(pyridin-4-ylmethyl)acetamide | 0.119 mmol, 48 mg | BrC=1C=NN(C(C1Br)=O)CC(=O)NCC1=CC=NC=C1 | C12H10Br2N4O2
reactant | 1-adamantanethanol | 0.510 mmol, 92 mg | C12(CC3CC(CC(C1)C3)C2)CCO | C12H20O
reactant | sodium hydroxide | 0.300 mmol, 6 M, 50 μL | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2-{5-Bromo-6-oxo-4-[2-(tricyclo[3.3.1.13,7]dec-1-yl)ethoxy]pyridazin-1(6H)-yl}-N-(pyridin-4-ylmethyl)acetamide | 9% yield | BrC1=C(C=NN(C1=O)CC(=O)NCC1=CC=NC=C1)OCCC12CC3CC(CC(C1)C3)C2 | C24H29BrN4O3
